US07812028B2
Preparation of 5-(4-Chloro-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-[(2-methoxy-ethyl)-methyl-amino]-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 43, using 5-bromo-6-chloro-nicotinic acid methyl ester, N-(2-methoxyethyl)methylamine (commercially available), 4-chlorophenyl-boronic acid (commercially available) and rac-1-amino-2-cyclopropyl-propan-2-ol (commercially available) as starting materials. MS (ISP): 418.3 (M+H+).

reactant | 5-bromo-6-chloro-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | N-(2-methoxyethyl)methylamine | COCCNC | C4H11NO
reactant | 4-chlorophenyl-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | rac-1-amino-2-cyclopropyl-propan-2-ol | NCC(C)(O)C1CC1 | C6H13NO
product | 5-(4-Chloro-phenyl)-N-(2-cyclopropyl-2-hydroxy-propyl)-6-[(2-methoxy-ethyl)-methyl-amino]-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC(C)(O)C2CC2)C1)N(C)CCOC | C22H28ClN3O3
